US06608063B2
Synthesis of [6-(2,4-dichlorophenyl)-5-nitropyrazin-2-yl]{2-[(4-nitrophenyl)amino]ethyl}amine
To a solution of 3-(2,4-dichlorophenyl)-5-bromo-2-nitropyrazine (20 mg, 0.057 mmol) in DMF (1 ml), (2-aminoethyl)(5-nitro(2-pyridyl))amine (11.3 mg, 0.06 mmol) and diisopropylethyl amine (40 μl, 0.228 mmol) were added. The reaction mixture was stirred for 12 hours at 80° C. The crude mixture was concentrated in vacuo and subjected to column chromatography (5% methanol in methylene chloride) to afford the title compound as bright yellow solid.

reactant | 3-(2,4-dichlorophenyl)-5-bromo-2-nitropyrazine | 0.057 mmol, 20 mg | ClC1=C(C=CC(=C1)Cl)C=1C(=NC=C(N1)Br)[N+](=O)[O-] | C10H4BrCl2N3O2
reactant | (2-aminoethyl)(5-nitro(2-pyridyl))amine | 0.06 mmol, 11.3 mg | NCCNC1=NC=C(C=C1)[N+](=O)[O-] | C7H10N4O2
reactant | diisopropylethyl amine | 0.228 mmol, 40 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | [6-(2,4-dichlorophenyl)-5-nitropyrazin-2-yl]{2-[(4-nitrophenyl)amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=C(N=CC(=N1)NCCNC1=CC=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C18H14Cl2N6O4
